US07645757B2
4.1. 3-[3-(4-chlorophenyl)isoxazol-5-yl]propan-1-ol
1.6 ml (11.5 mmol) of triethylamine are added dropwise to a solution, cooled with an ice bath, of 1.18 ml (12.6 mmol) of pent-4-yn-1-ol and of 2.0 g (10.5 mmol) of 4-chloro-N-hydroxybenzenecarboximidoyl chloride (J. Med. Chem., 1998, 41, 4556-4566) in 30 ml of dichloromethane. Reaction is allowed to take place at ambient temperature overnight. 50 ml of dichloromethane and 70 ml of water are added. The organic phase is separated and the aqueous phase is extracted with 2 times 50 ml of dichloromethane. The organic phases are subsequently washed with 2 times 70 ml of water and then with 70 ml of a saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated. The residue is purified by chromatography on silica gel, elution being carried out with a mixture of cyclohexane and of ethyl acetate, to produce 1.3 g (5.47 mmol) of product in the form of a white solid.

reactant | triethylamine | 11.5 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | pent-4-yn-1-ol | 12.6 mmol, 1.18 ml | C(CCC#C)O | C5H8O
reactant | 4-chloro-N-hydroxybenzenecarboximidoyl chloride | 10.5 mmol, 2.0 g | ClC1=CC=C(C=C1)C(=NO)Cl | C7H5Cl2NO
reactant | water | 70 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[3-(4-chlorophenyl)isoxazol-5-yl]propan-1-ol | 5.47 mmol, 1.3 g | ClC1=CC=C(C=C1)C1=NOC(=C1)CCCO | C12H12ClNO2
